US07767675B2
Step 4. Methyl 4-[7-(1-quinolin-6-ylethyl)imidazo[1,2-b][1,2,4]triazin-2-yl]benzoate
A mixture of methyl 4-(3-amino-1,2,4-triazin-6-yl)benzoate (50 mg, 0.217 mmol) and 2-chloro-3-quinolin-6-ylbutanal (61 mg, 0.26 mmol) in isopropyl alcohol (3.0 mL) was heated at 110° C. for 48 h. The mixture was adjusted to pH 9 by adding triethylamine. The volatiles were removed under reduced pressure and the residue was purified by chromatography on silica gel with EtOAc in methylene chloride (0-60%) to afford the desired product (0.020 g, 22%). LCMS: (M+H)=410.0.

reactant | methyl 4-(3-amino-1,2,4-triazin-6-yl)benzoate | 0.217 mmol, 50 mg | NC=1N=NC(=CN1)C1=CC=C(C(=O)OC)C=C1 | C11H10N4O2
reactant | 2-chloro-3-quinolin-6-ylbutanal | 0.26 mmol, 61 mg | ClC(C=O)C(C)C=1C=C2C=CC=NC2=CC1 | C13H12ClNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | isopropyl alcohol | 3.0 mL | C(C)(C)O | C3H8O
product | Methyl 4-[7-(1-quinolin-6-ylethyl)imidazo[1,2-b][1,2,4]triazin-2-yl]benzoate | 0.020 g, 22% | N1=CC=CC2=CC(=CC=C12)C(C)C1=CN=C2N1N=C(C=N2)C2=CC=C(C(=O)OC)C=C2 | C24H19N5O2
